US05268388
Step A: ethyl 2[5-fluoro-2-(4-fluorophenyl)-2,3-dihydro-1H-inden-1-ylidene]hydrazine carboxylate
To a mixture of 1.5 g of 5-fluoro-2-(4-fluorophenyl)-2,3-dihydro-1H-inden-1-one (prepared by a procedure analogous to Example 1, Step B) and 0.63 g of ethyl carbazate in 20 ml of methanol was added 1 drop of conc. H2SO4 and the reaction was refluxed under nitrogen overnight. The reaction was then partitioned between ethyl acetate and 5% aqueous NaHCO3, the aqueous extracts were washed with ethyl acetate and the combined organic extracts were dried over MgSO4. Concentration of the organic extract afforded 1.9 g of a yellow oil, which was triturated with ether to afford 1.27 g of a white solid, m.p. 139°-141° C.

reactant | 5-fluoro-2-(4-fluorophenyl)-2,3-dihydro-1H-inden-1-one | 1.5 g | FC=1C=C2CC(C(C2=CC1)=O)C1=CC=C(C=C1)F | C15H10F2O
reactant | ethyl carbazate | 0.63 g | C(NN)(=O)OCC | C3H8N2O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
product | ethyl 2[5-fluoro-2-(4-fluorophenyl)-2,3-dihydro-1H-inden-1-ylidene]hydrazine carboxylate | 1.9 g | FC=1C=C2CC(C(C2=CC1)=NNC(=O)OCC)C1=CC=C(C=C1)F | C18H16F2N2O2
